US08664217B2
N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (WSC) (0.16 g, 0.85 mmol) was added to an acetonitrile solution (6 ml) of 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (0.3 g, 0.71 mmol), isonicotinic acid (96 mg, 0.78 mmol), and 1-hydroxybenzotriazole (HOBT) (0.138 g, 0.85 mmol), and then stirred at room temperature for 2 days. The solvent was concentrated under reduced pressure. Ethyl acetate and a sodium hydrogen carbonate aqueous solution were added to the reaction mixture, and stirred for 1 hour. Water was added to the reaction mixture, and extraction with ethyl acetate was conducted. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by medium pressure liquid chromatography (silica gel, dichloromethane:methanol=92:8). The purified product was concentrated under reduced pressure and crystallized from ethyl acetate, diethylether and n-hexane. The precipitated crystals were collected by filtration and dried to thereby obtain 0.21 g (yield: 56%) of N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]-N-(2-pyridin-3-ylethyl)isonicotinamide as a white powder.

reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.85 mmol, 0.16 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 0.71 mmol, 0.3 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNCCC=2C=NC=CC2 | C24H32N4O3
reactant | isonicotinic acid | 0.78 mmol, 96 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | 1-hydroxybenzotriazole | 0.85 mmol, 0.138 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | N-[3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]-N-(2-pyridin-3-ylethyl)isonicotinamide | 0.21 g, yield: 56% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(C(C2=CC=NC=C2)=O)CCC=2C=NC=CC2 | C30H35N5O4
